US08383932B2
Synthesis of 2-(2,5-dibromophenyl)benzo[d]thiazole
5 g (18.5 mmol) of 2,5-dibromobenzaldehyde, 3 mL (27.7 mmol) of 2-aminothiophenol, and 2.35 g (9.25 mmol) of iodine (I2) were dissolved in 100 mL of DMF. The solution was reacted at 100° C. for 1 hour. The acquired reactant was purified through a column, obtaining 4.64 g (Y=68%) of a white solid.

reactant | 2,5-dibromobenzaldehyde | 18.5 mmol, 5 g | BrC1=C(C=O)C=C(C=C1)Br | C7H4Br2O
reactant | 2-aminothiophenol | 27.7 mmol, 3 mL | NC1=C(C=CC=C1)S | C6H7NS
reactant | iodine | 9.25 mmol, 2.35 g | II | I2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-(2,5-dibromophenyl)benzo[d]thiazole | BrC1=C(C=C(C=C1)Br)C=1SC2=C(N1)C=CC=C2 | C13H7Br2NS
